US07338958B2
Production of (RS)-S-[4-({5-bromo-4-[(1R,2R)-2-hydroxy-1-methylpropoxy]pyrimidin-2-yl}amino)phenyl]-N-(ethoxycarbonyl)-S-ethyl sulfoximide
128 mg (0.51 mmol) of (RS)-S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-ethyl sulfoximide and 150 mg (0.53 mmol) of (2R,3R)-3-[(5-bromo-2-chloropyrimidin-4-yl)oxy]-butan-2-ol in 2 ml of acetonitrile are mixed with 0.12 ml of a 4N solution of HCl in dioxane. The batch is stirred for 2 days at 60° C. The solvent is removed, and the residue is purified by chromatography (DCM/EtOH 95:5). 43 mg (0.09 mmol, corresponding to 17% of theory) of the product is obtained.

reactant | (RS)-S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-ethyl sulfoximide | 0.51 mmol, 128 mg | NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)CC | C11H16N2O3S
reactant | (2R,3R)-3-[(5-bromo-2-chloropyrimidin-4-yl)oxy]-butan-2-ol | 0.53 mmol, 150 mg | BrC=1C(=NC(=NC1)Cl)O[C@@H]([C@@H](C)O)C | C8H10BrClN2O2
reactant | HCl | Cl | ClH
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (RS)-S-[4-({5-bromo-4-[(1R,2R)-2-hydroxy-1-methylpropoxy]pyrimidin-2-yl}amino)phenyl]-N-(ethoxycarbonyl)-S-ethyl sulfoximide | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)CC)O[C@@H]([C@@H](C)O)C | C19H25BrN4O5S
